US20010056123A1
Step 1: Synthesis of methyl 2-(2-(t-butoxycarbonylamino)ethoxy)-4-cyanobenzoate:
5 g (12.88 mmol) of 3-(2-(t-butoxycarbonylamino)ethoxy)-4-iodobenzonitrile was dissolved in 60 ml of N,N-dimethylformamide (dehydrated). 3.6 ml (25.8 mmol) of triethylamine, 10 ml (25.8 mmol) of methanol and 145 mg (0.644 mmol) of palladium acetate were added to the obtained solution, and they were stirred in the presence of carbon monoxide at 90° C. for 6 hours. The solvent was evaporated. After the treatment with ethyl acetate as the extraction solvent in an ordinary manner, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | 3-(2-(t-butoxycarbonylamino)ethoxy)-4-iodobenzonitrile | 12.88 mmol, 5 g | C(C)(C)(C)OC(=O)NCCOC=1C=C(C#N)C=CC1I | C14H17IN2O3
reactant | triethylamine | 25.8 mmol, 3.6 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 25.8 mmol, 10 ml | CO | CH4O
reactant | carbon monoxide | [C]=O | CO
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.644 mmol, 145 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 2-(2-(t-butoxycarbonylamino)ethoxy)-4-cyanobenzoate | C(C)(C)(C)OC(=O)NCCOC1=C(C(=O)OC)C=CC(=C1)C#N | C16H20N2O5
